US08487094B2
To a solution of (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one (500 mg, 1.04 mmol) and methyl 6-bromonicotinate (292 mg, 1.35 mmol) in dry 1,4-dioxane (5 mL) was added CsCO3 (1 mL, 2 mmol) and Pd(PPh3)2Cl2 (50 mg). After addition, the mixture was warmed to 110° C. for 30 min under microwave. After TLC showed the starting material had disappeared, the solid was filtered off Water (20 mL) and EtOAc (10 mL) was added, the layers were separated and the aqueous layer was extracted with EtOAc (3×10 mL). The combined organic layer was washed with brine, dried over Na2SO4, filtered and concentrated to give methyl 6-(4-((S)-1-((S)-6-(2-hydroxy-2-methylpropyl)-2-oxo-6-phenyl-1,3-oxazinan-3-yl)ethyl)phenyl)nicotinate (507 mg, 89%), which was purified by preparative TLC. 1H NMR (CDCl3): 1.13 (s, 3H), 1.19 (s, 3H), 1.61 (d, 3H), 2.24 (m, 4H), 2.37 (m, 1H), 2.88 (m, 1H), 4.02 (s, 3H), 5.76 (q, 1H), 7.11 (d, 2H), 7.29-7.47 (m, 6H), 7.78 (m, 1H), 7.82 (m, 2H), 8.38 (d, 1H), 9.31 (s, 1H).

reactant | (S)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 1.04 mmol, 500 mg | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1)(C)C | C28H38BNO5
reactant | methyl 6-bromonicotinate | 1.35 mmol, 292 mg | BrC1=NC=C(C(=O)OC)C=C1 | C7H6BrNO2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 50 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl 6-(4-((S)-1-((S)-6-(2-hydroxy-2-methylpropyl)-2-oxo-6-phenyl-1,3-oxazinan-3-yl)ethyl)phenyl)nicotinate | 507 mg, 89% | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=NC=C(C(=O)OC)C=C1)C1=CC=CC=C1)(C)C | C29H32N2O5
